US04031226
A mixture of 5.6 parts of N-(2-chloroethyl)-1-methyl-1H-pyrrole-2-carboxamide, 6.52 parts of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 2.52 parts of sodium hydrogen carbonate, 0.1 parts of potassium iodide and 240 parts of 4-methyl-2-pentanone is stirred and refluxed for 62 hours. The reaction mixture is cooled and the solvent is evaporated. The residue is purified by columnchromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the hydrochloride salt in ethanol, 2-propanol and 2,2'-oxybispropane. The salt is filtered off and crystallized from a mixture of ethanol and 2,2'-oxybispropane, yielding 0.6 parts of N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}-1-methyl-1H-pyrrole-2-carboxamide hydrochloride hydrate; mp. 237.7° C.

reactant | N-(2-chloroethyl)-1-methyl-1H-pyrrole-2-carboxamide | ClCCNC(=O)C=1N(C=CC1)C | C8H11ClN2O
reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}-1-methyl-1H-pyrrole-2-carboxamide hydrochloride hydrate | O.Cl.O=C1NC2=C(N1C1CCN(CC1)CCNC(=O)C=1N(C=CC1)C)C=CC=C2 | InChI=1S/C20H25N5O2.ClH.H2O/c1-23-11-4-7-18(23)19(26)21-10-14-24-12-8-15(9-13-24)25-17-6-3-2-5-16(17)22-20(25)27;;/h2-7,11,15H,8-10,12-14H2,1H3,(H,21,26)(H,22,27);1H;1H2
